US04642313
8.0 g of (2-furylcarbonyl)methylamine hydrochloride, 10.5 g of sodium bicarbonate and 10.1 g of 4-methoxybenzoyl chloride are treated in the same manner as described in Preparation 1-(1). 11.0 g of N-(4-methoxybenzoyl)-(2-furylcarbonyl)methylamine are thereby obtained. Yield: 85.3%

reactant | (2-furylcarbonyl)methylamine hydrochloride | 8.0 g | Cl.O1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 10.5 g | C([O-])(O)=O.[Na+]
reactant | 4-methoxybenzoyl chloride | 10.1 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N-(4-methoxybenzoyl)-(2-furylcarbonyl)methylamine | 11.0 g, Yield: 85.3% | COC1=CC=C(C(=O)NCC(=O)C=2OC=CC2)C=C1 | C14H13NO4
